US05180519
(i) Preparation of trans-4-hydroxyethyl-(trans-4-n-propylcyclohexyl)cyclohexane
Into a three-necked flask having a 500 ml capacity was added lithium aluminum hydride (2.8 g), and cooled down to 0° C., followed by dropwise adding tetrahydrofuran (50 ml) and a solution of trans-4-(trans-4-n-propylcyclohexyl)cyclohexyl-acetic acid (26.6 g, 0.1 mol) in this order, agitating the mixture at room temperature for 4 hours to obtain a mixture. To this mixture ethyl acetate (10 ml), water (10 ml) and 2N NaOH aqueous solution (10 ml) were added in this order and refluxed for 30 minutes, followed by cooling the resulting material, filtering, concentrating the filtrate under reduced pressure, adding water (100 ml) and toluene (100 ml), removing the resulting aqueous layer, washing the resulting organic layer with water till the washing water became neutral, drying over anhydrous sodium sulfate, removing a drying agent, concentrating under reduced pressure, passing the residue through an alumina column using dichloromethane solvent, distilling off dichloromethane, recrystallizing from heptane and drying to obtain the captioned compound (21.5 g). Its structure was confirmed by NMR spectra.

reactant | lithium aluminum hydride | 2.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | trans-4-(trans-4-n-propylcyclohexyl)cyclohexyl-acetic acid | 0.1 mol, 26.6 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CC(=O)O | C17H30O2
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | trans-4-hydroxyethyl-(trans-4-n-propylcyclohexyl)cyclohexane | 21.5 g | OCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C17H32O
